US07485283B2
Synthesis of toluene-4-sulfonic acid 2,2-dimethyl-6-[2-(3,4,5-trimethoxy-phenyl)-acetyl]-chroman-4-yl ester
To a solution 1-(4-hydroxy-2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone (3.5 mg, 0.009 mmol) dissolved in anhydrous dichloromethane (1.0 mL) is added TsCl (1.94 mg, 0.011 mmol), DMAP (1.24 mg, 0.011 mmol) and TEA (21.3 μL, 0.015 mmole). The reaction mixture continues stirring at room temperature overnight. The next day, the reaction mixture is diluted with water. The aqueous layer is separated and extracted with ethyl acetate (3×). All combined organic layers are dried over Na2SO4, filtered, and concentrated to yield an oil. The crude material is purified using silica gel chromatography to yield the desired product.

reactant | 1-(4-hydroxy-2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethoxy-phenyl)-ethanone | 0.009 mmol, 3.5 mg | OC1CC(OC2=CC=C(C=C12)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)(C)C | C22H26O6
reactant | TsCl | 0.011 mmol, 1.94 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
catalyst | DMAP | 0.011 mmol, 1.24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | toluene-4-sulfonic acid 2,2-dimethyl-6-[2-(3,4,5-trimethoxy-phenyl)-acetyl]-chroman-4-yl ester | CC1(OC2=CC=C(C=C2C(C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C29H32O8S
